US09216980B2
Step 1: 9-Benzenesulfonyl-5-hydroxy-9H-dipyrido[2,3-b;4′3′-d]pyrrole-6-carbonitrile
A suspension of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (5.0 g, 11.7 mmol) and 10% palladium on carbon (500 mg) in industrial methylated spirits (120 mL), ethyl acetate (25 mL), dimethylformamide (25 mL) and triethylamine (25 mL) was stirred at ambient temperature under an atmosphere of hydrogen for 20 h. The reaction vessel was purged with nitrogen then the reaction mixture was filtered through celite. The filtrate was evaporated in vacuo. The resultant brown residue was suspended in aqueous hydrochloric acid (1M, 40 mL) and sonicated for 20 minutes then filtered to afford the title compound as a beige solid (4.0 g, 98%). 1H NMR (DMSO-D6, 300 MHz): 9.27 (d, J=0.8 Hz, 1H), 8.73-8.65 (m, 2H), 8.19 (d, J=7.9 Hz, 2H), 7.78-7.69 (m, 1H), 7.65-7.54 (m, 3H).

reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 11.7 mmol, 5.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
product | 9-Benzenesulfonyl-5-hydroxy-9H-dipyrido[2,3-b;4′3′-d]pyrrole-6-carbonitrile | 4.0 g, 98% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=CC=N2 | C17H10N4O3S
